US04717724
(a) 6-Methoxy-2-(4-phenylbenzyl)-1,2,3,4-tetrahydroisoquinoline
4.0 g of 6-methoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride, 4.1 g of 4-chloromethylbiphenyl and 6.0 g of finely powdered potassium carbonate in 50 ml of dimethylformamide are stirred at 80° for 5 hours. The solvent is removed in vacuo, the residue is taken up in water/methylene chloride, the organic phase is shaken twice with water, and the organic phase is dried with magnesium sulfate and evaporated in a rotary evaporator. The crude product, which is only slightly impure, can be reacted further without further purification. A sample recrystallized from ethyl acetate has a melting point of 120°.

reactant | 6-methoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 4.0 g | Cl.COC=1C=C2CCNCC2=CC1
reactant | 4-chloromethylbiphenyl | 4.1 g | ClCC1=CC=C(C=C1)C1=CC=CC=C1 | C13H11Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-Methoxy-2-(4-phenylbenzyl)-1,2,3,4-tetrahydroisoquinoline | COC=1C=C2CCN(CC2=CC1)CC1=CC=C(C=C1)C1=CC=CC=C1 | C23H23NO
